US05730902
Preparation of (R)-4-(trans-4-(trans-4-n-heptylcyclohexyl)-4-silacyclohexyl)-1-(1-methyloctyloxy)-2,6-difluorobenzene
The general procedure of Example 1 was repeated using 4-(4-(trans-4-n-heptylcyclohexyl)-4-silacyclohexyl)-2,6-difluorophenol and (S)-2-nonanol, thereby obtaining the intended compound.

reactant | 4-(4-(trans-4-n-heptylcyclohexyl)-4-silacyclohexyl)-2,6-difluorophenol | C(CCCCCC)[C@@H]1CC[C@H](CC1)[SiH]1CCC(CC1)C1=CC(=C(C(=C1)F)O)F | C24H38F2OSi
reactant | (S)-2-nonanol | C[C@@H](CCCCCCC)O | C9H20O
product | (R)-4-(trans-4-(trans-4-n-heptylcyclohexyl)-4-silacyclohexyl)-1-(1-methyloctyloxy)-2,6-difluorobenzene | C(CCCCCC)[C@@H]1CC[C@H](CC1)[Si@@H]1CC[C@H](CC1)C1=CC(=C(C(=C1)F)O[C@@H](CCCCCCC)C)F | C33H56F2OSi
